* Z:\mnt\design.r\spice\examples\1495.asc
V1 +V 0 5
V2 -V 0 -5
C1 N001 IN .015µ
C2 N005 N001 .015µ
R1 N009 IN 215K
R2 N005 N009 215K
C3 N009 0 .03µ
R3 N002 N001 100K
R4 N005 0 215K
C4 N005 0 .1µ
R5 N002 N008 200K
R6 N008 0 100K
C5 N002 N008 .01µ
V3 IN 0 AC 1
R7 N002 N006 10K
C6 N006 0 .1µ
C7 N003 N006 .015µ
C8 N007 N003 .015µ
R8 N011 N006 169K
R9 N007 N011 169K
C9 N011 0 .03µ
R10 N004 N003 80.6K
R11 N007 0 169K
C10 N007 0 .1µ
R12 N004 N010 200K
R13 N010 0 100K
C11 N004 N010 .01µ
R14 OUT N004 10K
C12 0 OUT .1µ
XU1 N005 N008 +V -V N002 LT1494
XU2 N007 N010 +V -V N004 LT1494
.ac oct 100 1 1K
* 6th Order 10Hz Elliptic Lowpass Filter
.lib LTC.lib
.backanno
.end
